US07977364B2
2-(6-hydroxy-1,2-benzisoxazol-3-yl)-3-(4-hydroxyphenyl) propanenitrile
To a solution of 2-(6-methoxy-1,2-benzisoxazol-3-yl)-3-(4-methoxyphenyl)propanenitrile (1.5 g, 4.9 mmoles) in CH2Cl2 (100 ml) under N2, was added BBr3 1M in CH2Cl2 (4 eq, 20 ml). The mixture was refluxed for 2 h, poured into water and extracted with EtOAc, dried over Na2SO4, filtered and concentrated under vacuum to give the crude product. Purification by flash chromatography (CH2Cl2/MeOH 98/2) and crystallisation from EtOH yielded the expected crystals (850 mg, 62%). mp 214° C.

reactant | 2-(6-methoxy-1,2-benzisoxazol-3-yl)-3-(4-methoxyphenyl)propanenitrile | 4.9 mmoles, 1.5 g | COC1=CC2=C(C(=NO2)C(C#N)CC2=CC=C(C=C2)OC)C=C1 | C18H16N2O3
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml, 4 eq | C(Cl)Cl | CH2Cl2
product | 2-(6-hydroxy-1,2-benzisoxazol-3-yl)-3-(4-hydroxyphenyl) propanenitrile | 850 mg, 62% | OC1=CC2=C(C(=NO2)C(C#N)CC2=CC=C(C=C2)O)C=C1 | C16H12N2O3
